US06201006B1
Synthesis of ethyl-2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]propionate (Compound 109)
300 mg (0.823 mmole) of 1-ethyl-2-[2-[(S)-1-[((R)-pyrrolidin-2-yl)carbonyl]pyrrolidin-2-yl]ethyl]indole-6-carbonitrile was dissolved in 15 ml of acetonitrile, and 0.29 ml (1.646 mmole) of diisopropylethylamine and 0.22 ml (1.646 mmole) of ethyl 2-bromopropionate were added thereto. The reaction mixture was heated to 70° C., stirred for 4 hours, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography [eluent: dichloromethane/methanol(20:1)] to obtain 310 mg of the title compound as a pale yellow oil.

reactant | 1-ethyl-2-[2-[(S)-1-[((R)-pyrrolidin-2-yl)carbonyl]pyrrolidin-2-yl]ethyl]indole-6-carbonitrile | 0.823 mmole, 300 mg | C(C)N1C(=CC2=CC=C(C=C12)C#N)CC[C@H]1N(CCC1)C(=O)[C@@H]1NCCC1 | C22H28N4O
reactant | diisopropylethylamine | 1.646 mmole, 0.29 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl 2-bromopropionate | 1.646 mmole, 0.22 ml | BrC(C(=O)OCC)C | C5H9BrO2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | ethyl-2-[(R)-2-[[(S)-2-[2-(6-amidino-1-ethylindol-2-yl)ethyl]pyrrolidinyl]carbonyl]pyrrolidinyl]propionate | 310 mg | C(C)OC(C(C)N1[C@H](CCC1)C(=O)N1[C@@H](CCC1)CCC=1N(C2=CC(=CC=C2C1)C(N)=N)CC)=O | C27H39N5O3
